Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.96606331002
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.3502103440900002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.4015788925
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9]>>[C:5]#[C:6][C:7](=[O:8])[H:9].[O:1]=[C:2]([H:3])[H:4],2.33780571164
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6],6.74294860403
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],3.89314006273
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],3.74013826878
[H:1][C:2]1[O:3][O:4]1>>[H:1][C:2][O:4][O:3],1.6029231622600002
[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.58017440415
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.5201654551
[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-2.36633033182
[C:3]([H:4])[H:5].[O:1]=[C:2][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.50096400477
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-5.72615695525
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][H:6],2.0102016909
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9],-3.26375809143
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.69327900156
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[H:12],1.23320546839
[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.49883578955
[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-0.648736231269
[H:1][C:2][O:3][C:4]#[C:5][O:7][C:8]([H:9])[H:10].[H:6]>>[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],-2.71697333881
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.22339443533
[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.2258682073100005
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.0328680294200003
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],3.88576519645
[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9]>>[C:1]=[C:2]1[C:3]([C:4][O:5][H:6])[C:7]1([H:8])[H:9],-0.16119652045
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.05588910163
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:10](/[C:7]([C:6]=[O:5])([H:8])[H:9])[H:11],-1.74691291037
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:4],2.17253578831
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.98494323559
